US08609731B2
6-Hydroxy-2-[(S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-3,4-dihydro-2H-isoquinolin-1-one
A mixture of 6-methoxy-2-[(S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-3,4-dihydro-2H-isoquinolin-1-one (0.59 g), NMP (2 ml), thiophenol (150 mg) and potassium carbonate (235 mg) was heated to 210° C. in a microwave reactor for 40 minutes. The cooled reaction mixture was purified by chromatography on silica gel (eluent: 9:1 dichloromethane/methanol). The product was thus obtained with the molecular weight of 420.56 (C26H32N2O3); MS (ESI): 421 (M+H+).

reactant | 6-methoxy-2-[(S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-3,4-dihydro-2H-isoquinolin-1-one | 0.59 g | COC=1C=C2CCN(C(C2=CC1)=O)[C@@H]1CC2=CC=C(C=C2CC1)CN1CCC(CC1)OC | C27H34N2O3
reactant | thiophenol | 150 mg | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 235 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 6-Hydroxy-2-[(S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-3,4-dihydro-2H-isoquinolin-1-one | OC=1C=C2CCN(C(C2=CC1)=O)[C@@H]1CC2=CC=C(C=C2CC1)CN1CCC(CC1)OC | C26H32N2O3
